
* OPAMP MACRO MODEL
* connections:      non-inverting input
*                   |   inverting input
*                   |   |   output
*                   |   |   |
.SUBCKT OPAMP2      1   2   6
* INPUT IMPEDANCE
RIN	1	2	10MEG
EGAIN	3 0	1 2	100K
RP1	3	4	1K
CP1	4	0	1.5915UF
* OUTPUT BUFFER AND RESISTANCE
EBUF	5 0	4 0	1
ROUT	5	6	10
.ENDS
